US06833470B2
Nöth et al. (Chem. Ber. 1990, 1841-1843) convert p-bromobenzaldehyde into the diethyl acetal, convert this into the corresponding Grignard reagent by means of magnesium turnings in tetrahydrofuran (THF) and, after reaction with tri-n-butyl borate, obtain formylphenylboronic acid in a yield of 70%. A disadvantage of this synthesis is the high price of bromobenzaldehyde compared to chlorobenzaldehyde, the need for ultrasonic activation in the preparation of the Grignard reagent and the use of the expensive tributyl borate; in addition, complicated purification procedures have to be employed (e.g. via the hydrolysis product 1-butanol).

reactant | p-bromobenzaldehyde | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | magnesium | [Mg] | Mg
reactant | tri-n-butyl borate | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | formylphenylboronic acid | yield of 70% | C(=O)OB(O)C1=CC=CC=C1 | C7H7BO3
